US07544679B2
A solution of 144 mg (0.47 mmol) (S)-7-amino-5-(2,2,2-trifluoro-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and 125 mg (0.47 mmol) (RS)-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid in 21 ml tetrahydrofuran were reacted at room temperature with 73.6 mg (0.47 mmol) 1-hydroxy-benzotriazole hydrate, 165 μl (0.94 mmol) diisopropylethylamine and 92.1 mg (0.47 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride. Stirring was continued overnight. Removal of the solvent by distillation and chromatography on silicagel with ethylacetate/heptane (gradient 15/85 to 40/60) yielded 207 mg (79%) (R/S)-2-hydroxy-2-methyl-N-[(S)-6-oxo-5-(2,2,2-trifluoro-ethyl)-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N-(2,2,3,3,3-pentafluoro-propyl)-malonamide as a white solid, MS (m/e): 554.3 (M+H)+.

reactant | (S)-7-amino-5-(2,2,2-trifluoro-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | 0.47 mmol, 144 mg | N[C@H]1C2=C(C3=C(N(C1=O)CC(F)(F)F)C=CC=C3)C=CC=C2 | C16H13F3N2O
reactant | (RS)-2-hydroxy-2-methyl-N-(2,2,3,3,3-pentafluoro-propyl)-malonamic acid | 0.47 mmol, 125 mg | OC(C(=O)O)(C(=O)NCC(C(F)(F)F)(F)F)C | C7H8F5NO4
reactant | 1-hydroxy-benzotriazole hydrate | 0.47 mmol, 73.6 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.94 mmol, 165 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.47 mmol, 92.1 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | (R/S)-2-hydroxy-2-methyl-N-[(S)-6-oxo-5-(2,2,2-trifluoro-ethyl)-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 207 mg, 79% | OC(C(=O)N(CC(C(F)(F)F)(F)F)[C@H]1C2=C(C3=C(N(C1=O)CC(F)(F)F)C=CC=C3)C=CC=C2)(C(=O)N)C | C23H19F8N3O4
